US06060508
32 g (142 mmol) of 2,3-dimethyl-7-bromobenzofuran, 3.3 g (2.84 mmol) of tetrakis(triphenylphosphine)palladium, 300 ml of toluene and 50 g (156.2 mmol) of tributylvinylstannane are introduced into a 1 liter three-necked flask equipped with a reflux condenser. The mixture is heated at reflux for 3 hours, 1 g of tetrakis(triphenylphosphine)palladium is added and heating is continued for 2 hours. The reaction mixture is allowed to return to room temperature and then 500 ml of ethyl acetate and 500 ml of aqueous sodium hydroxide solution are added. The organic phase is washed with brine, dried over magnesium sulphate and concentrated. The residue is distilled under a vacuum of 0.03 mm of Hg (4 Pa). The fraction distilling between 60 and 78° C. is collected and then purified by chromatography on a silica column (elution solvent: 1% ethyl acetate in cyclohexane). 23.5 g (Yield: 96%) of 2,3-dimethyl-7-ethenylbenzofuran are obtained in the form of a colourless oil.

reactant | 2,3-dimethyl-7-bromobenzofuran | 142 mmol, 32 g | CC=1OC2=C(C1C)C=CC=C2Br | C10H9BrO
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | tributylvinylstannane | 156.2 mmol, 50 g | C(CCC)C(=C(CCCC)CCCC)[SnH3]
reactant | sodium hydroxide | 500 ml | [OH-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 2.84 mmol, 3.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2,3-dimethyl-7-ethenylbenzofuran | 23.5 g, Yield: 96% | CC=1OC2=C(C1C)C=CC=C2C=C | C12H12O
